US05639913
(rac)-N-(m-Anisoyl)-1-aminoindan
The title compound was prepared from (rac)-1-aminoindan (1.6 g, 12.3 mmole) and m-anisoyl chloride (1.9 g, 13.54 mmole) as in Ex. 46; crystallization from EtOAc:hexane gave 2.0 g (7.2 mmole, 59%) white solid, mp: 140° C.

reactant | (rac)-1-aminoindan | 12.3 mmole, 1.6 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | m-anisoyl chloride | 13.54 mmole, 1.9 g | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
solvent | hexane | CCCCCC | C6H14
product | (rac)-N-(m-Anisoyl)-1-aminoindan | C(C1=CC(=CC=C1)OC)(=O)NC1CCC2=CC=CC=C12 | C17H17NO2
